US06716843B2
N-[(4S)-4-Amino-5-oxo-5((2S)-2-cyano-1-pyrrolidinyl)-pentyl]-cyclohexanesulphonamide Hydrochloride
Starting from (S)-N5-(benzyloxycarbonyl)-N2-(tert-butyloxycarbonyl)-ornithine, cyclohexanesulphonyl chloride and (S)-2-cyano-pyrrolidine hydrochloride, the expected product is obtained according to the procedure described in Example 3.

reactant | (S)-N5-(benzyloxycarbonyl)-N2-(tert-butyloxycarbonyl)-ornithine | C(C1=CC=CC=C1)OC(=O)NCCC[C@H](NC(=O)OC(C)(C)C)C(=O)O | C18H26N2O6
reactant | cyclohexanesulphonyl chloride | C1(CCCCC1)S(=O)(=O)Cl | C6H11ClO2S
reactant | (S)-2-cyano-pyrrolidine hydrochloride | Cl.C(#N)[C@H]1NCCC1
product | N-[(4S)-4-Amino-5-oxo-5((2S)-2-cyano-1-pyrrolidinyl)-pentyl]-cyclohexanesulphonamide Hydrochloride | Cl.N[C@@H](CCCNS(=O)(=O)C1CCCCC1)C(N1[C@@H](CCC1)C#N)=O | InChI=1S/C16H28N4O3S.ClH/c17-12-13-6-5-11-20(13)16(21)15(18)9-4-10-19-24(22,23)14-7-2-1-3-8-14;/h13-15,19H,1-11,18H2;1H/t13-,15-;/m0./s1
